US06242602B1
5,10-dihydrophenazine in an amount of 10 g is dissolved in 100 ml ethanol and added to 2.6 g NaOH dissolved in 2 ml of water. The mixture was heated to reflux and O2 bubbled through for 30 minutes. TLC shows that the 5,10-dihydrophenazine is converted completely to phenazine. The mixture was stripped to a volume of 45 ml and 25 ml water added. After cooling in a refrigerator, 8.0 grams of crude phenazine is collected by filtration. The crude phenazine is dissolved in 80 ml toluene, filtered hot, and stripped to 25 ml. When cooled, 5.86 of still somewhat brown phenazine is collected. After an additional recrystallization from toluene, a further toluene solution (50 ml) is treated with 1.0 g charcoal, reduced to 20 ml, cooled to room temperature and then under refrigeration, to yield 4.0 g (40%) of yellow phenazine.

reactant | 5,10-dihydrophenazine | C1=CC=CC=2NC3=CC=CC=C3NC12 | C12H10N2
reactant | NaOH | 2.6 g | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | phenazine | 4.0 g, 40% | C1=CC=CC2=NC3=CC=CC=C3N=C12 | C12H8N2
